US07129268B2
{4-[3,3-Bis-(4-fluoro-phenyl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid
{4-[3,3-Bis-(4-fluoro-phenyl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid methyl ester (10.05 g, 22.8 mmol) was dissolved in warm ethanol (400 ml). 1N NaOH (35.5 ml, 35.5 mmol) was added at room temperature and the reaction mixture was stirred for 2 h. after which it was evaporated. The residue was treated with water (350 ml) and 1N HCl (41.5 ml) and extracted with dichloromethane (2×750 ml). The combined organic phases were dried and evapotated to give the title compound in 9.23 g (95%) yield.

reactant | {4-[3,3-Bis-(4-fluoro-phenyl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid methyl ester | 22.8 mmol, 10.05 g | COC(COC1=C(C=C(C=C1)SCC=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C)=O | C25H22F2O3S
reactant | NaOH | 35.5 mmol, 1N, 35.5 ml | [OH-].[Na+]
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | {4-[3,3-Bis-(4-fluoro-phenyl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid | FC1=CC=C(C=C1)C(=CCSC1=CC(=C(OCC(=O)O)C=C1)C)C1=CC=C(C=C1)F | C24H20F2O3S
